US06228868B1
3-(9-fluorenylmethoxycarbonyl)amino-4-methoxybenzoic acid
A suspension of 3-amino-4-methoxybenzoic acid (1.00 g, 6.0 mmol) in acetone (15 mL) was treated portionwise and alternately with Fmoc-succinimide (2.63 g, 7.8 mmol) in acetone (15 mL) and saturated aqueous NaHCO3 to keep the pH of the solution between 8-9, stirred at room temperature for 18 hours, treated with 3M HCl, and filtered. The solid was washed sequentially with water and dichloromethane and dried under vacuum to provide 1.54 g (66%) of the desired product.

reactant | 3-amino-4-methoxybenzoic acid | 6.0 mmol, 1.00 g | NC=1C=C(C(=O)O)C=CC1OC | C8H9NO3
reactant | Fmoc-succinimide | 7.8 mmol, 2.63 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)C1C(=O)NC(C1)=O | C19H15NO4
reactant | HCl | 3M | Cl | ClH
solvent | acetone | 15 mL | CC(=O)C | C3H6O
solvent | acetone | 15 mL | CC(=O)C | C3H6O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 3-(9-fluorenylmethoxycarbonyl)amino-4-methoxybenzoic acid | 1.54 g, 66% | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NC=1C=C(C(=O)O)C=CC1OC | C23H19NO5
